US04824865
ethyl 2-ketooctanoate
The diglycerides and the triglycerides of 2-hydroxyoctanoic acid and 2-ketooctanoic acid.

reactant | 2-hydroxyoctanoic acid | OC(C(=O)O)CCCCCC | C8H16O3
reactant | 2-ketooctanoic acid | O=C(C(=O)O)CCCCCC | C8H14O3
product | ethyl 2-ketooctanoate | O=C(C(=O)OCC)CCCCCC | C10H18O3
